US07396844B1
The title compound was obtained in the same manner as in step 6 in Example 1 by treating benzyl (2S)-2-t-butoxycarbonylamino-4-(3-cyanophenoxy)butyrate (the compound in step 1 in Example 91) and benzyl (2S)-2-(4-dimethylcarbamoylbenzoylamino)-4-(3-cyanophenoxy)butyrate obtained in the same manner as in step 2 in Example 91 from 4-dimethylcarbamoylbenzoic acid as the starting material.

reactant | benzyl (2S)-2-t-butoxycarbonylamino-4-(3-cyanophenoxy)butyrate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CCOC1=CC(=CC=C1)C#N | C23H26N2O5
reactant | benzyl (2S)-2-(4-dimethylcarbamoylbenzoylamino)-4-(3-cyanophenoxy)butyrate | CN(C(=O)C1=CC=C(C(=O)N[C@H](C(=O)OCC2=CC=CC=C2)CCOC2=CC(=CC=C2)C#N)C=C1)C | C28H27N3O5
product | 4-dimethylcarbamoylbenzoic acid | CN(C(=O)C1=CC=C(C(=O)O)C=C1)C | C10H11NO3
